US04963566
(1-Methyl-1,2,3,4-tetrahydroquinolin-8-yl)methyl lithium (18.3 g) was dissolved in benzene (150 ml). After adding (5-methoxy-2-benzimidazolyl)sulfinyl chloride (20.1 g) thereto, the mixture was refluxed for 2 hours. The resulting lithium chloride was filtered off, and the filtrate was concentrated under reduced pressure. The resulting residue was recrystallized from ethyl acetate to give 8-(5-methoxy-2-benzimidazolyl)sulfinylmethyl-1-methyl-1,2,3,4-tetrahydroquinoline (1.1 g).

reactant | (1-Methyl-1,2,3,4-tetrahydroquinolin-8-yl)methyl lithium | 18.3 g | CN1CCCC2=CC=CC(=C12)C[Li]
reactant | (5-methoxy-2-benzimidazolyl)sulfinyl chloride | 20.1 g | COC1=CC2=C(N=C(N2)S(=O)Cl)C=C1 | C8H7ClN2O2S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 8-(5-methoxy-2-benzimidazolyl)sulfinylmethyl-1-methyl-1,2,3,4-tetrahydroquinoline | 1.1 g | COC1=CC2=C(N=C(N2)S(=O)CC=2C=CC=C3CCCN(C23)C)C=C1 | C19H21N3O2S
